US07427639B2
A solution of 3-(4hydroxyphenyl)-1-propanol (2.0 g, 13.1 mmole) in DMF (5 mL) was added to a solution of DMF (35 mL) containing Nail (1.31 g, 60% in mineral oil) at 0° C. under nitrogen atmosphere. The reaction mixture was slowly warmed to 80° C. After stirring for 1 h at 80° C., the reaction mixture was cooled to 0° C., and 6-bromohexanenitrile (5.78 g,.32.83 mmole) was added. The final mixture was re-heated to 80° C., and stirred for 24 h. The reaction mixture was quenched with saturated NaCl solution (200 mL), and the product was extracted with EtOAc (300 mL). The organic layer was washed with brine solution, dried with Na2SO4, and evaporated to dryness, yielding a pale yellow solid. Purification of the crude product by flash silica column chromatography: 4/1 to 1/1 hexane/EtOAc provided 6-{3-[4-(5-cyanopentyloxy)phenyl]propoxy}hexanenitrile in 30% yield (1.33 g). Rf=0.63 in 1/1 EtOAc/hexane. 1H-NMR (CDC3, 299.96 MHz): δ (ppm) 7.09-7.07 (d, 2H), 6.81-6.78 (d, 2H), 3.96-3.92 (t, 2H), 3.42-3.37 (m, 4H), 2.64-2.58 (t, 2H), 2.39-2.32 (m, 4H), 1.87-1.52 (m, 14H).

reactant | 3-(4hydroxyphenyl)-1-propanol | 13.1 mmole, 2.0 g | OC1=CC=C(C=C1)CCCO | C9H12O2
reactant | 6-bromohexanenitrile | 32.83 mmole, 5.78 g | BrCCCCCC#N | C6H10BrN
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | 6-{3-[4-(5-cyanopentyloxy)phenyl]propoxy}hexanenitrile | 30% yield | C(#N)CCCCCOC1=CC=C(C=C1)CCCOCCCCCC#N | C21H30N2O2
